US07253196B2
N-(2-(3-(4-((2-((2S)-Bicyclo[2.2.1]heptan-2-ylamino)-5-methyl-4-oxo-4,5-dihydrothiazol-5-yl)methyl)piperidine-1-carbonyl)phenoxy)ethyl)furan-3-carboxamide
The title compound was prepared according to the procedure described in the preparation of tert-butyl 2-(3-(4-((2-((2S)-bicyclo[2.2.1]heptan-2-ylamino)-5-methyl-4-oxo-4,5-dihydrothiazol-5-yl)methyl)piperidine-1-carbonyl)phenoxy)ethylcarbamate by using 5-((1-(3-(2-aminoethoxy)benzoyl)piperidin-4-yl)methyl)-2-((2S)-bicyclo[2.2.1]heptan-2-ylamino)-5-methylthiazol-4(5H)-one (93 mg, 0.19 mmol), 3-furoic acid (Aldrich, 39 mg, 0.35 mmol), EDCI (Aldrich, 74 mg, 0.38 mmol), HOBt (Aldrich, 5.2 mg, 0.038 mmol) and triethylamine (Aldrich, 39 mg, 0.38 mmol, 2.0 eq). The title compound was obtained as an off-white solid (89 mg). MS (ESI, pos. ion) m/z. 579 (M+H).

reactant | tert-butyl 2-(3-(4-((2-((2S)-bicyclo[2.2.1]heptan-2-ylamino)-5-methyl-4-oxo-4,5-dihydrothiazol-5-yl)methyl)piperidine-1-carbonyl)phenoxy)ethylcarbamate | C12[C@H](CC(CC1)C2)NC=2SC(C(N2)=O)(C)CC2CCN(CC2)C(=O)C=2C=C(OCCNC(OC(C)(C)C)=O)C=CC2 | C31H44N4O5S
reactant | 5-((1-(3-(2-aminoethoxy)benzoyl)piperidin-4-yl)methyl)-2-((2S)-bicyclo[2.2.1]heptan-2-ylamino)-5-methylthiazol-4(5H)-one | 0.19 mmol, 93 mg | NCCOC=1C=C(C(=O)N2CCC(CC2)CC2(C(N=C(S2)N[C@@H]2C3CCC(C2)C3)=O)C)C=CC1 | C26H36N4O3S
reactant | 3-furoic acid | 0.35 mmol, 39 mg | O1C=C(C=C1)C(=O)O | C5H4O3
reactant | EDCI | 0.38 mmol, 74 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.038 mmol, 5.2 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 0.38 mmol, 39 mg, 2.0 eq | C(C)N(CC)CC | C6H15N
product | N-(2-(3-(4-((2-((2S)-Bicyclo[2.2.1]heptan-2-ylamino)-5-methyl-4-oxo-4,5-dihydrothiazol-5-yl)methyl)piperidine-1-carbonyl)phenoxy)ethyl)furan-3-carboxamide | C12[C@H](CC(CC1)C2)NC=2SC(C(N2)=O)(C)CC2CCN(CC2)C(=O)C=2C=C(OCCNC(=O)C1=COC=C1)C=CC2 | C31H38N4O5S
